**************************************************
* Manufacturer: 		Wurth Elektronik
* Kinds:			 Common Mode Power Line Choke
* Matchcode: 		WE-CMBH
* Library Type:		LTspice
* Version: 		rev20a
* Created/modified by:	Paul
* Date and Time   :		2020-03-05
* Team: 			eiSos EDA Service
* Contact: 		libraries@we-online.com
**************************************************
.SUBCKT  CMBH  1  2  3  4  PARAMS:
R_R9  N12325  3  {R2}
R_R8  N13265  N13287  {Rs4}  
Kn_K6  L_L11  L_L12
+  L_L13  L_L14  0.9999
R_R3  N12571  N12583  {Rs3}
R_R10  N13777  4  {R2}
C_C10  N13029  N12821  {ck}
R_R20  N13215  N13229  {dR4}
L_L11  N12821  N12295  {dL4}
R_R17  N12267  N12273  {dR3}
L_L8  N13265  N13287  {L4}
R_R7  N13287  N13305  {Rs3}
L_L9  N12295  N12307  {L5}
Kn_K4  L_L7  L_L8  1
R_R2  N12583  N12599  {Rs2}
Kn_K5  L_L9  L_L10  1
R_R16  N13229  N13249  {dR6}
Kn_K7  L_L15  L_L16
+  L_L17  L_L18  0.9999
C_C5  N12273  N12289  {dC4}
L_L6  N13287  N13305  {L3}
L_L7  N12307  N12571  {L4}
R_R6  N13305  N13319  {Rs2}
R_R21  1  N12257  {Rdc}
Kn_K3  L_L5  L_L6  1
L_L16  N12257  N12799  {dL3}
C_C8  N13215  N13741  {dC3}
L_L18  N13023  N13215  {dL3}
R_R1  N12599  3  {Rs1}
R_R13  N12289  N12295  {dR5}
L_L4  N13305  N13319  {L2}
L_L5  N12571  N12583  {L3}
R_R15  N13755  N13249  {dR5}
R_R5  N13319  4  {Rs1}
R_R18  N12257  N12273  {dR4}
Kn_K2  L_L3  L_L4  1
R_R19  N13741  N13229  {dR3}
L_L15  N12799  N12273  {dL3}
L_L17  N13229  N13023  {dL3}
L_L3  N12583  N12599  {L2}
R_R11  N12295  N12307  {Rs5}
L_L2  N13319  4  {L1}
C_C4  N13249  N13265  {C2}
L_L10  N13249  N13265  {L5}
Kn_K1  L_L1  L_L2  1
R_R14  N12273  N12295  {dR6}
C_C6  N13229  N13755  {dC4}
L_L12  N12273  N12821  {dL4}
L_L14  N13029  N13229  {dL4}
L_L1  N12599  3  {L1}
C_C1  N12307  N12325  {C1}
R_R12  N13249  N13265  {Rs5}
C_C2  N13265  N13777  {C1}
R_R22  2  N13215  {Rdc}
C_C9  N13023  N12799  {ck}
R_R4  N12307  N12571  {Rs4}
C_C3  N12295  N12307  {C2}
L_L13  N13249  N13029  {dL4}
C_C7  N12257  N12267  {dC3}
.ends  CMBH
****
.SUBCKT  L_744834101_1m  1  2  3  4
X1  1  2  3  4  CMBH  PARAMS:
+  L1=200.14u
+  L2=200.53u
+  L3=254.10u
+  L4=250.1u
+  L5=10n
+  C1=18000.06f
+  C2=540.02f
+  Rs1=1856.63
+  Rs2=1278.77
+  Rs3=1496.33
+  Rs4=18000
+  Rs5=1636.33
+  R2=7
+  dL3=380e-009
+  dC3=6.5e-012
+  dL4=13.51e-009
+  dC4=7.63e-012
+  dR3=0.48
+  dR4=3550
+  dR5=0.78
+  dR6=466
+  Rdc=8m
+  ck=2pF
.ends  L_744834101_1m
  ****
.SUBCKT  L_744834405_5m  1  2  3  4
X1  1  2  3  4  CMBH  PARAMS:
+  L1=300.14u
+  L2=500.53u
+  L3=3024.10u
+  L4=900.1u
+  L5=300n
+  C1=16700.06f
+  C2=13400.02f
+  Rs1=28566.63
+  Rs2=2578.77
+  Rs3=24966.33
+  Rs4=640000
+  Rs5=1636.33
+  R2=1
+  dL3=1.9e-006
+  dL4=35e-009
+  dC3=19.5e-012
+  dC4=3.7e-011
+  dR3=0.08
+  dR4=16100
+  dR5=11
+  dR6=19850
+  Rdc=35m
+  ck=4pF
.ends  L_744834405_5m
****  
.SUBCKT  L_744834407_7m  1  2  3  4
X1  1  2  3  4  CMBH  PARAMS:
+  L1=600.14u
+  L2=600.53u
+  L3=3924.10u
+  L4=500.1u
+  L5=500n
+  C1=19700.06f
+  C2=20400.02f
+  Rs1=18566.63
+  Rs2=5578.77
+  Rs3=51966.33
+  Rs4=540000
+  Rs5=636.33
+  R2=1
+  dL3=2.6e-006
+  dL4=45e-009
+  dC3=19e-012
+  dC4=4.5e-011
+  dR3=0.08
+  dR4=19100
+  dR5=28
+  dR6=59850
+  Rdc=55.27m
+  ck=4pF
.ends  L_744834407_7m
 **** 
.SUBCKT  L_744834433_3.3m  1  2  3  4
X1  1  2  3  4  CMBH  PARAMS:
+  L1=3.5m
+  L2=350u
+  L3=33u
+  L4=2u
+  L5=100.4n
+  C1=11p
+  C2=1p
+  Rs1=21k
+  Rs2=10k
+  Rs3=300
+  Rs4=660
+  Rs5=660
+  R2=1.41
+  dL3=1500e-009
+  dC3=16e-012
+  dL4=5.51e-009
+  dC4=13.63e-012
+  dR3=0.48
+  dR4=11680
+  dR5=0.78
+  dR6=266
+  Rdc=28m
+  ck=4pF
.ends  L_744834433_3.3m
****
.SUBCKT  L_744834622_2.2m  1  2  3  4
X1  1  2  3  4  CMBH  PARAMS:
+  L1=1.9m
+  L2=250u
+  L3=13u
+  L4=.1u
+  L5=170.4n
+  C1=10p
+  C2=1.2p
+  Rs1=21k
+  Rs2=2k
+  Rs3=200
+  Rs4=260
+  Rs5=460
+  R2=1.41
+  dL3=900e-009
+  dC3=12.6e-012
+  dL4=12.51e-009
+  dC4=11.63e-012
+  dR3=0.49
+  dR4=9680
+  dR5=17
+  dR6=866
+  Rdc=14.74m
+  ck=4pF
.ends  L_744834622_2.2m
****
.SUBCKT  L_744834220_20m  1  2  3  4
X1  1  2  3  4  CMBH  PARAMS:
+  L1=20m
+  L2=250u
+  L3=13u
+  L4=.1u
+  L5=100.4n
+  C1=33p
+  C2=1.2p
+  Rs1=210k
+  Rs2=2k
+  Rs3=200
+  Rs4=260
+  Rs5=460
+  R2=1.41
+  dL3=7800e-009
+  dC3=41e-012
+  dL4=12.51e-009
+  dC4=11.63e-012
+  dR3=0.49
+  dR4=15380
+  dR5=17
+  dR6=866
+  Rdc=14.74m
+  ck=4pF
.ends  
****
.SUBCKT  L_744834310_10m  1  2  3  4
X1  1  2  3  4  CMBH  PARAMS:
+  L1=10m
+  L2=250u
+  L3=13u
+  L4=.1u
+  L5=100.4n
+  C1=21p
+  C2=1.2p
+  Rs1=93k
+  Rs2=2k
+  Rs3=200
+  Rs4=260
+  Rs5=460
+  R2=1.41
+  dL3=3800e-009
+  dC3=21e-012
+  dL4=12.51e-009
+  dC4=11.63e-012
+  dR3=0.49
+  dR4=15380
+  dR5=17
+  dR6=866
+  Rdc=14.74m
+  ck=4pF
.ends  
****

 